US07250442B2
3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-1-(2-methoxy-pyrimidin-4-yl)-1,3-dihydro-indol-2-one
Under an N2 atmosphere, combine 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1-(2-chloro-pyrimidin-4-yl)-1,3-dihydro-indol-2-one and sodium methoxide solution (0.5 M) in methanol (2.0 mL). Add THF (5.0 mL) and stir for 3 h at room temperature. Quench the reaction with saturated aqueous ammonium chloride (25 mL). Add ethyl acetate (25 mL) and separate the layers. Dry the organic layer with sodium sulfate and concentrate in vacuo. Dissolve the crude residue in THF (2 mL), and add a solution of tetrabutylammonium fluoride (1.0 M) in THF (0.84 mL). Stir the reaction at room temperature for 1 h. Quench the reaction with saturated aqueous ammonium chloride (25 mL). Add ethyl acetate (25 mL) and separate the layers. Dry the organic layer with sodium sulfate and concentrate in vacuo. Purify by flash column chromatography eluting with a gradient from 25% to 50% ethyl acetate in hexanes to give 0.289 g (%) of the title compound: mass Spectrum (ion spray): m/z=482(M+1); 1H NMR (DMSO-d6): δ8.67 (d, 1H), 8.29 (s, 2H), 8.21 (d, 1H), 7.36 (td, 1H), 7.30, (dd, 1H), 7.22 (td, 1H), 6.69 (s, 4H), 3.97 (s, 3H), 2.05 (s, 12H).

reactant | 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1-(2-chloro-pyrimidin-4-yl)-1,3-dihydro-indol-2-one | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(N(C2=CC=CC=C12)C1=NC(=NC=C1)Cl)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C40H52ClN3O3Si2
reactant | sodium methoxide | 0.5 M | C[O-].[Na+]
reactant | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 2.0 mL | CO | CH4O
product | 3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-1-(2-methoxy-pyrimidin-4-yl)-1,3-dihydro-indol-2-one | OC1=C(C=C(C=C1C)C1(C(N(C2=CC=CC=C12)C1=NC(=NC=C1)OC)=O)C1=CC(=C(C(=C1)C)O)C)C | C29H27N3O4
